* Thu Sep 24 20:37:03 2015, Generated by: 010328058, Server: None, Windows, INSTALLED_SOFTWARE_VERSION: 2015.07 Build 6, Engine: 2015.07rc1, GUI: 2015.07rc1
* Standard Load generic_3_3v generic_3_3v.ibs 3_3V_O_fast_40ohm D TTTE,,
* Mon Jul 20 2015 2015.07rc1 , Copyright (c) Signal Integrity Software, Inc.
*
* Interface File C:\Myproject\project1\interfaces\interface1\interface1.edk
* Log File     generate_spice.log
*
** #PARAM STLOAD slpad
** #PARAM PART generic_3_3v
** #PARAM IBIS_FILE generic_3_3v.ibs
** #PARAM IBIS_MODEL 3_3V_O_fast_40ohm
** #PARAM HSPICE_FILE
** #PARAM HSPICE_MODEL
** #PARAM CORNER TTTE
** #PARAM DIFFERENTIAL YES
** #PARAM TRANSFER_NET sheet4
* options
* options from: C:\SiSoft\2015.07\etc\defaults\default_isspice4_options.inc
.options Itl1=500
.options Itl4=500
.options ICSTEP=40
.options autotol=2
.options ACCT
* options from: C:\Myproject\project1\managed_data\project_defaults\isspice4_options.inc
*File C:\Myproject\project1\managed_data\project_defaults\isspice4_options.inc
* options from: C:\SiSoft\2015.07\etc\defaults\default_isspice4_stdload_options.inc
* options from: C:\Myproject\project1\managed_data\project_defaults\isspice4_stdload_options.inc
*File C:\Myproject\project1\managed_data\project_defaults\isspice4_stdload_options.inc
** #PARAM UI 20n
** #PARAM SIMULATOR IsSpice4
*
.probe/csdf
.option temp= 25.
Vv_stimulus v_stimulus 0 pwlb( 0.000n 0v
+ 20.000n 0v 20.3710n .46 20.3730n .48 20.3740n .49 20.3760n .51 20.3770n .52 20.3780n .54 20.750n 1v
+ 40.000n 1v 40.3710n .54 40.3730n .52 40.3740n .51 40.3760n .49 40.3770n .48 40.3780n .46 40.750n 0v
+ 60.000n 0v 60.3710n .46 60.3730n .48 60.3740n .49 60.3760n .51 60.3770n .52 60.3780n .54 60.750n 1v
+ 100.000n 1v 100.3710n .54 100.3730n .52 100.3740n .51 100.3760n .49 100.3770n .48 100.3780n .46 100.750n 0v 110.000n 0v )
Vv_stimulus_N v_stimulus_N 0 pwlb( 0.000n 1v
+ 20.000n 1v 20.3710n .54 20.3730n .52 20.3740n .51 20.3760n .49 20.3770n .48 20.3780n .46 20.750n 0v
+ 40.000n 0v 40.3710n .46 40.3730n .48 40.3740n .49 40.3760n .51 40.3770n .52 40.3780n .54 40.750n 1v
+ 60.000n 1v 60.3710n .54 60.3730n .52 60.3740n .51 60.3760n .49 60.3770n .48 60.3780n .46 60.750n 0v
+ 100.000n 0v 100.3710n .46 100.3730n .48 100.3740n .49 100.3760n .51 100.3770n .52 100.3780n .54 100.750n 1v 110.000n 1v )
Rv_stimulus_N v_stimulus_N 0 1Meg
** #PARAM STIMULUS 0011001111
.tran 20pS 114nS
.options Minstep=20p
VTimeStep TimeStep 0 DC 1.
TTimeStep TimeStep 0 0 0 Zo=50. TD=40p
** #PARAM DIFFERENTIAL
*
Vvssq_stload_sl_wopkg vssq_stload_sl_wopkg 0 DC 0.
Vvddq_stload_sl_wopkg vddq_stload_sl_wopkg 0 DC 3.3
RVstload_sl_wopkg_pkg stload_sl_wopkg_!pad stload_sl_wopkg_!pin 1.e-6
RVstload_L_sl_wopkg_pkg stload_L_sl_wopkg_!pad stload_L_sl_wopkg_!pin 1.e-6
RVslref_stload_sl_wopkg stload_sl_wopkg_!load stload_sl_wopkg_!pin 1.e-6
Vsl_stload_sl_wopkg v_stload_sl_wopkg 0 1.65
Rsl_stload_sl_wopkg stload_sl_wopkg_!load v_stload_sl_wopkg 50.
RVslref_stload_L_sl_wopkg stload_L_sl_wopkg_!load stload_L_sl_wopkg_!pin 1.e-6
Vsl_stload_L_sl_wopkg v_stload_L_sl_wopkg 0 1.65
Rsl_stload_L_sl_wopkg stload_L_sl_wopkg_!load v_stload_L_sl_wopkg 50.
* Buffer stload typ slpad, generic_3_3v.ibs generic_3_3v 3_3V_O_fast_40ohm 15p 3_3V_O_fast_40ohmp 3.3 0.
*
Xstload_sl_wopkg vddq_stload_sl_wopkg vssq_stload_sl_wopkg stload_sl_wopkg_!pad v_stimulus
+ vddq_stload_sl_wopkg vssq_stload_sl_wopkg
+ generic_3_3v_3_3V_O_fast_40ohm_TT
*
Xstload_L_sl_wopkg vddq_stload_sl_wopkg vssq_stload_sl_wopkg stload_L_sl_wopkg_!pad v_stimulus_N
+ vddq_stload_sl_wopkg vssq_stload_sl_wopkg
+ generic_3_3v_3_3V_O_fast_40ohm_TT
*
*
Vvssq_stload_sl_wpkg vssq_stload_sl_wpkg 0 DC 0.
Vvddq_stload_sl_wpkg vddq_stload_sl_wpkg 0 DC 3.3
Rstload_sl_wpkg stload_sl_wpkg_!pin stload_sl_wpkg_pkg .25
Lstload_sl_wpkg stload_sl_wpkg_pkg stload_sl_wpkg_!pad 4n
Cstload_sl_wpkg stload_sl_wpkg_!pin 0 1p
Rstload_L_sl_wpkg stload_L_sl_wpkg_!pin stload_L_sl_wpkg_pkg .25
Lstload_L_sl_wpkg stload_L_sl_wpkg_pkg stload_L_sl_wpkg_!pad 4n
Cstload_L_sl_wpkg stload_L_sl_wpkg_!pin 0 1p
RVslref_stload_sl_wpkg stload_sl_wpkg_!load stload_sl_wpkg_!pin 1.e-6
Vsl_stload_sl_wpkg v_stload_sl_wpkg 0 1.65
Rsl_stload_sl_wpkg stload_sl_wpkg_!load v_stload_sl_wpkg 50.
RVslref_stload_L_sl_wpkg stload_L_sl_wpkg_!load stload_L_sl_wpkg_!pin 1.e-6
Vsl_stload_L_sl_wpkg v_stload_L_sl_wpkg 0 1.65
Rsl_stload_L_sl_wpkg stload_L_sl_wpkg_!load v_stload_L_sl_wpkg 50.
* Buffer stload typ slpin, generic_3_3v.ibs generic_3_3v 3_3V_O_fast_40ohm 15p 3_3V_O_fast_40ohmp 3.3 0.
*
Xstload_sl_wpkg vddq_stload_sl_wpkg vssq_stload_sl_wpkg stload_sl_wpkg_!pad v_stimulus
+ vddq_stload_sl_wpkg vssq_stload_sl_wpkg
+ generic_3_3v_3_3V_O_fast_40ohm_TT
*
Xstload_L_sl_wpkg vddq_stload_sl_wpkg vssq_stload_sl_wpkg stload_L_sl_wpkg_!pad v_stimulus_N
+ vddq_stload_sl_wpkg vssq_stload_sl_wpkg
+ generic_3_3v_3_3V_O_fast_40ohm_TT
*
*#save v(v_stimulus)
*#save v(stload_sl_wopkg_!load)
*#save v(stload_L_sl_wopkg_!load)
*#save v(stload_sl_wpkg_!load)
*#save v(stload_L_sl_wpkg_!load)
*#save v(stload_sl_wopkg_!pad)
*#save v(stload_L_sl_wopkg_!pad)
*#save v(stload_sl_wpkg_!pad)
*#save v(stload_sl_wpkg_!pin)
*#save v(stload_L_sl_wpkg_!pad)
*#save v(stload_L_sl_wpkg_!pin)
.SUBCKT generic_3_3v_3_3V_O_fast_40ohm_TT PU_REF PD_REF PAD A PC_REF GC_REF
*
*
* C_comp
CCOMP PAD GC_REF +3.00200E-12 IC=0
*
RA A 0 1Meg
VINIT Vini 0    dc 200n
RETIR ETR  Vini 1G
CETR  ETR  0    1n
BETR  0    ETR  I= Time < 40p ? 0. : 1n
RETIF ETF  Vini 1G
CETF  ETF  0    1n
BETF  0    ETF  I= Time < 40p ? 0. : 1n
RETR ETR 0 R= V(A) > .5 ? 1G  : .02
RETF ETF 0 R= V(A) > .5 ? .02 : 1G
*
* Pull Down Structure;
AKT_PD_R ETR KT_PD_R KT_PD_R_T
AKT_PD_F ETF KT_PD_F KT_PD_F_T
.model KT_PD_R_T pwl2(
+ xy_array = [ 0. .99 5p .99 10p .992 20p .991 25p .989 30p .986 40p .98 45p .977 50p .973 55p .97 60p .966 65p .962
+ 70p .958 75p .954 80p .949 85p .944 90p .939 100p .928 105p .922 110p .916 115p .909 120p .903
+ 125p .896 130p .889 135p .882 140p .874 145p .867 150p .859 155p .85 160p .842 165p .833 170p .823
+ 175p .817 180p .807 185p .798 190p .79 195p .782 200p .773 205p .764 215p .747 220p .738 225p .729
+ 230p .72 235p .712 240p .703 245p .694 250p .685 255p .677 260p .668 265p .659 270p .65 275p .641
+ 280p .633 285p .623 290p .615 295p .606 300p .597 305p .588 310p .579 315p .571 320p .562 325p .553
+ 330p .544 335p .535 340p .526 345p .517 350p .509 355p .5 360p .491 365p .482 370p .473 375p .464
+ 380p .455 385p .446 390p .438 395p .429 400p .42 405p .411 410p .402 415p .393 420p .385 425p .375
+ 430p .367 435p .358 440p .349 445p .34 455p .322 460p .313 465p .304 470p .296 475p .287 480p .278
+ 485p .269 490p .26 495p .251 500p .242 505p .233 510p .224 515p .216 520p .207 525p .198 530p .189
+ 535p .18 540p .172 545p .163 550p .155 555p .146 560p .138 565p .131 570p .123 575p .116 580p .109
+ 585p .103 590p .096 595p .089 600p .083 605p .078 610p .072 615p .066 620p .06 625p .057 630p .051
+ 635p .046 640p .042 645p .039 650p .035 655p .031 660p .025 670p .023 675p .017 685p .015 690p .012
+ 695p .01 700p .008 710p .007 715p .005 720p .003 735p .005 750p .004 755p .006 770p .004 775p .002
+ 780p 321.969u 785p -.001 790p -.003 795p -.005 800p -.007 815p -.003 820p 395.354u 825p .002 840p 346.779u 850p -911.358u
+ 860p -.002 880p -163.419u 1.005n 145.56u 1.01n 114.348u 1.015n 0. 101.015n 0. ]  )
.model KT_PD_F_T pwl2(
+ xy_array = [ 0. .01 5p .99 10p .008 20p .01 25p .012 30p .014 40p .02 45p .023 50p .027 55p .03 60p .034 65p .038
+ 70p .042 75p .046 80p .051 85p .056 90p .061 100p .072 105p .078 110p .084 115p .091 120p .097
+ 125p .104 130p .111 135p .118 140p .126 145p .133 150p .141 155p .15 160p .158 165p .167 170p .177
+ 175p .183 180p .193 185p .202 190p .21 195p .218 200p .227 205p .236 215p .253 220p .262 225p .271
+ 230p .28 235p .288 240p .297 245p .306 250p .315 255p .324 260p .332 265p .341 270p .35 275p .359
+ 280p .367 285p .377 290p .385 295p .394 300p .403 305p .412 310p .421 315p .43 320p .438 325p .447
+ 330p .456 335p .465 340p .474 345p .483 350p .492 355p .5 360p .509 365p .518 370p .527 375p .536
+ 380p .545 385p .554 390p .563 395p .571 400p .58 405p .589 410p .598 415p .607 420p .616 425p .625
+ 430p .634 435p .642 440p .651 445p .66 455p .678 460p .687 465p .696 470p .705 475p .713 480p .722
+ 485p .731 490p .74 495p .749 500p .758 505p .767 510p .776 515p .785 520p .793 525p .802 530p .811
+ 535p .82 540p .829 545p .837 550p .846 555p .854 560p .862 565p .869 570p .877 575p .884 580p .891
+ 585p .897 590p .904 595p .911 600p .918 605p .922 610p .928 615p .934 620p .94 625p .943 630p .949
+ 635p .954 640p .959 645p .961 650p .965 655p .97 660p .975 670p .977 675p .983 685p .985 690p .988
+ 695p .99 700p .992 710p .993 715p .995 720p .998 730p .999 750p 1.001 765p .999 780p 1. 785p 1.002
+ 790p 1.003 805p .999 810p .998 825p .999 835p 1.001 845p 1.002 855p 1.003 865p 1.001 870p 1. 910p 1.001
+ 935p 1. 1.005n 1. 1.01n 1. 1.015n 1. 101.015n 1. ] )
*
BPD PAD PD_REF I=
+ V(A) > .5 ? V(PD_Current)*V(KT_PD_R) : V(PD_Current)*V(KT_PD_F)
XPD PD_Current 0 PAD PD_REF PULL_DOWN
*
* Pullup Structure;
AKT_PU_R ETR KT_PU_R KT_PU_R_T
AKT_PU_F ETF KT_PU_F KT_PU_F_T
.model KT_PU_R_T pwl2(
+ xy_array = [ 0. 0. 5p 0. 10p .008 20p .01 25p .012 30p .014 40p .02 45p .023 50p .027 55p .03 60p .034 65p .038
+ 70p .042 75p .046 80p .051 85p .056 90p .061 100p .072 105p .078 110p .084 115p .091 120p .097
+ 125p .104 130p .111 135p .118 140p .126 145p .133 150p .141 155p .15 160p .158 165p .167 170p .177
+ 175p .183 180p .193 185p .202 190p .21 195p .218 200p .227 205p .236 215p .253 220p .262 225p .271
+ 230p .28 235p .288 240p .297 245p .306 250p .315 255p .324 260p .332 265p .341 270p .35 275p .359
+ 280p .367 285p .377 290p .385 295p .394 300p .403 305p .412 310p .421 315p .43 320p .438 325p .447
+ 330p .456 335p .465 340p .474 345p .483 350p .492 355p .5 360p .509 365p .518 370p .527 375p .536
+ 380p .545 385p .554 390p .563 395p .571 400p .58 405p .589 410p .598 415p .607 420p .616 425p .625
+ 430p .634 435p .642 440p .651 445p .66 455p .678 460p .687 465p .696 470p .705 475p .713 480p .722
+ 485p .731 490p .74 495p .749 500p .758 505p .767 510p .776 515p .784 520p .793 525p .802 530p .811
+ 535p .82 540p .829 545p .837 550p .846 555p .854 560p .862 565p .869 570p .877 575p .884 580p .891
+ 585p .897 590p .904 595p .911 600p .917 605p .922 610p .928 615p .934 620p .94 625p .943 630p .949
+ 635p .954 640p .959 645p .961 650p .965 655p .97 660p .975 670p .977 675p .983 685p .985 690p .988
+ 695p .99 700p .992 710p .993 715p .995 720p .998 735p .995 750p .997 755p .994 770p .996 775p .998
+ 780p 1. 785p 1.001 790p 1.003 795p 1.005 800p 1.007 815p 1.003 820p 1. 825p .998 840p 1. 850p 1.001
+ 860p 1.002 880p 1. 1.005n 1. 1.01n 1. 1.015n 1. 101.015n 1. ] )
.model KT_PU_F_T pwl2(
+ xy_array = [ 0. 1. 10p .992 25p .989 30p .986 40p .98 45p .977 50p .973 55p .97 60p .966 65p .962 70p .958
+ 75p .954 80p .949 85p .944 90p .939 100p .928 105p .922 110p .916 115p .909 120p .903 125p .896
+ 130p .889 135p .882 140p .874 145p .867 150p .859 155p .85 160p .842 165p .833 170p .823 175p .817
+ 180p .807 185p .798 190p .79 195p .782 200p .773 205p .764 215p .747 220p .738 225p .729 230p .72
+ 235p .712 240p .703 245p .694 250p .685 255p .677 260p .668 265p .659 270p .65 275p .641 280p .633
+ 285p .623 290p .615 295p .606 300p .597 305p .588 310p .579 315p .571 320p .562 325p .553 330p .544
+ 335p .535 340p .526 345p .517 350p .509 355p .5 360p .491 365p .482 370p .473 375p .464 380p .455
+ 385p .446 390p .438 395p .429 400p .42 405p .411 410p .402 415p .393 420p .384 425p .375 430p .367
+ 435p .358 440p .349 445p .34 455p .322 460p .313 465p .304 470p .296 475p .287 480p .278 485p .269
+ 490p .26 495p .251 500p .242 505p .233 510p .224 515p .216 520p .207 525p .198 530p .189 535p .18
+ 540p .172 545p .163 550p .155 555p .146 560p .138 565p .131 570p .123 575p .116 580p .109 585p .103
+ 590p .096 595p .089 600p .083 605p .078 610p .072 615p .066 620p .06 625p .057 630p .051 635p .046
+ 640p .042 645p .039 650p .035 655p .031 660p .025 670p .023 675p .017 685p .015 690p .012 695p .01
+ 700p .008 715p .005 720p .003 750p -497.342u 765p .002 785p -.002 795p -.004 805p 725.224u 840p -.001 875p 771.587u
+ 1.005n 0. 1.01n 0. 1.015n 0. 101.015n 0. ] )
*
BPU PAD PU_REF I=
+ V(A) > .5 ? V(PU_Current)*V(KT_PU_R) : V(PU_Current)*V(KT_PU_F)
XPU PU_Current 0 PU_REF PAD PULL_UP
*
* Pull Down IV;
.SUBCKT PULL_DOWN PD_Current    REF   PAD   PD_REF
* Connections     Out+ Out In+ In
APullDown %vd(PAD,PD_REF) %vd(PD_Current,REF) transfer
.model transfer pwl2(
+ xy_array = [
+ -4.17308E+00 -5.93367E-01
+ -3.17308E+00 -5.93367E-01
+ -2.75406E+00 -4.87844E-01
+ -2.39351E+00 -3.97292E-01
+ -2.04271E+00 -3.09522E-01
+ -1.67241E+00 -2.17516E-01
+ -1.30212E+00 -1.27036E-01
+ -1.11697E+00 -8.34469E-02
+ -1.04876E+00 -6.81396E-02
+ -9.90292E-01 -5.57452E-02
+ -9.61058E-01 -4.99510E-02
+ -9.51313E-01 -4.80992E-02
+ -9.31824E-01 -4.45858E-02
+ -9.22079E-01 -4.29242E-02
+ -9.12335E-01 -4.13326E-02
+ -9.02590E-01 -3.98107E-02
+ -8.92846E-01 -3.83855E-02
+ -8.83101E-01 -3.70458E-02
+ -8.73356E-01 -3.58043E-02
+ -8.63612E-01 -3.46547E-02
+ -8.53867E-01 -3.36030E-02
+ -8.44123E-01 -3.26397E-02
+ -8.34378E-01 -3.17498E-02
+ -8.24634E-01 -3.09363E-02
+ -8.05144E-01 -2.94592E-02
+ -7.46677E-01 -2.56931E-02
+ -6.19997E-01 -1.85897E-02
+ -5.32296E-01 -1.44342E-02
+ -4.44594E-01 -1.13242E-02
+ +8.00394E-05 -2.64189E-10
+ +8.00413E-05 -2.16700E-10
+ +8.00499E-05 +0.00000E+00
+ +4.81142E-01 +1.20275E-02
+ +7.05267E-01 +1.76311E-02
+ +1.05607E+00 +2.64018E-02
+ +1.29969E+00 +3.24928E-02
+ +1.70896E+00 +4.27254E-02
+ +2.11823E+00 +5.29581E-02
+ +2.53725E+00 +6.34344E-02
+ +2.67367E+00 +6.68451E-02
+ +3.08295E+00 +7.70779E-02
+ +3.40452E+00 +8.51188E-02
+ +3.49222E+00 +8.73127E-02
+ +3.70660E+00 +9.29643E-02
+ +3.78456E+00 +9.57884E-02
+ +3.80405E+00 +9.66429E-02
+ +3.82354E+00 +9.75192E-02
+ +3.83328E+00 +9.79574E-02
+ +3.84303E+00 +9.83955E-02
+ +3.85277E+00 +9.88454E-02
+ +3.86251E+00 +9.93168E-02
+ +3.87226E+00 +9.97974E-02
+ +3.88200E+00 +1.00278E-01
+ +3.89175E+00 +1.00758E-01
+ +3.90149E+00 +1.01244E-01
+ +3.92098E+00 +1.02247E-01
+ +3.93073E+00 +1.02756E-01
+ +3.95022E+00 +1.03783E-01
+ +3.97945E+00 +1.05353E-01
+ +4.00868E+00 +1.06960E-01
+ +4.08664E+00 +1.11571E-01
+ +4.10613E+00 +1.12927E-01
+ +4.12562E+00 +1.14469E-01
+ +4.13536E+00 +1.15354E-01
+ +4.14511E+00 +1.16321E-01
+ +4.15485E+00 +1.17360E-01
+ +4.16460E+00 +1.18517E-01
+ +4.17434E+00 +1.19778E-01
+ +4.18409E+00 +1.21108E-01
+ +4.20358E+00 +1.24075E-01
+ +4.22306E+00 +1.27344E-01
+ +4.23281E+00 +1.29073E-01
+ +4.25230E+00 +1.32679E-01
+ +4.28153E+00 +1.38448E-01
+ +4.31077E+00 +1.44494E-01
+ +4.38872E+00 +1.61522E-01
+ +4.40821E+00 +1.65916E-01
+ +4.42770E+00 +1.70339E-01
+ +4.43745E+00 +1.72568E-01
+ +4.44719E+00 +1.74804E-01
+ +4.45693E+00 +1.77049E-01
+ +4.46668E+00 +1.79297E-01
+ +4.47642E+00 +1.81551E-01
+ +4.48617E+00 +1.83809E-01
+ +4.49591E+00 +1.86076E-01
+ +4.50566E+00 +1.88353E-01
+ +4.51540E+00 +1.90633E-01
+ +4.53489E+00 +1.95200E-01
+ +4.55438E+00 +1.99788E-01
+ +4.58361E+00 +2.06703E-01
+ +4.61285E+00 +2.13643E-01
+ +4.68106E+00 +2.29934E-01
+ +4.78825E+00 +2.55764E-01
+ +4.98314E+00 +3.03157E-01
+ +5.34369E+00 +3.91679E-01
+ +5.73348E+00 +4.88049E-01
+ +6.06479E+00 +5.70263E-01
+ +6.46432E+00 +6.69658E-01
+ +7.46432E+00 +6.69658E-01
+ ] )
.ENDS PULL_DOWN
*
* Pull Up IV;
.SUBCKT PULL_UP PU_Current REF PU_REF PAD
* Connections   Out+ Out In+ In
APullUp %vd(PU_REF,PAD) %vd(PU_Current,REF) transfer
.model transfer pwl2(
+ xy_array = [
+ -4.16432E+00 +5.87158E-01
+ -3.16432E+00 +5.87158E-01
+ -2.74530E+00 +4.82918E-01
+ -2.47245E+00 +4.15200E-01
+ -2.13139E+00 +3.30812E-01
+ -1.74161E+00 +2.34948E-01
+ -1.32259E+00 +1.33460E-01
+ -1.07898E+00 +7.68419E-02
+ -1.01077E+00 +6.19934E-02
+ -9.81532E-01 +5.59479E-02
+ -9.52298E-01 +5.01789E-02
+ -9.32809E-01 +4.65733E-02
+ -9.23064E-01 +4.48434E-02
+ -9.03575E-01 +4.15750E-02
+ -8.93831E-01 +4.00572E-02
+ -8.84086E-01 +3.86085E-02
+ -8.74342E-01 +3.72777E-02
+ -8.64597E-01 +3.60167E-02
+ -8.54852E-01 +3.48594E-02
+ -8.45108E-01 +3.38205E-02
+ -8.35363E-01 +3.28543E-02
+ -8.25619E-01 +3.19692E-02
+ -8.06129E-01 +3.04271E-02
+ -7.86640E-01 +2.90711E-02
+ -7.57406E-01 +2.72508E-02
+ -6.01493E-01 +1.87446E-02
+ -4.84558E-01 +1.32884E-02
+ -4.06601E-01 +1.04643E-02
+ +1.56745E-04 +6.89496E-07
+ +1.84322E-04 +0.00000E+00
+ +2.11865E-04 -6.88658E-07
+ +2.17053E-01 -5.42203E-03
+ +6.26325E-01 -1.56549E-02
+ +7.62750E-01 -1.90656E-02
+ +1.18177E+00 -2.95419E-02
+ +1.59104E+00 -3.97745E-02
+ +1.98082E+00 -4.95199E-02
+ +2.40959E+00 -6.02399E-02
+ +2.52652E+00 -6.31635E-02
+ +3.00401E+00 -7.51015E-02
+ +3.44251E+00 -8.60659E-02
+ +3.53021E+00 -8.82598E-02
+ +3.61791E+00 -9.04729E-02
+ +3.74459E+00 -9.38241E-02
+ +3.80306E+00 -9.57928E-02
+ +3.82255E+00 -9.65399E-02
+ +3.84204E+00 -9.73670E-02
+ +3.85178E+00 -9.78004E-02
+ +3.86153E+00 -9.82338E-02
+ +3.87127E+00 -9.86763E-02
+ +3.88102E+00 -9.91468E-02
+ +3.89076E+00 -9.96293E-02
+ +3.90051E+00 -1.00112E-01
+ +3.91025E+00 -1.00596E-01
+ +3.92974E+00 -1.01601E-01
+ +3.94923E+00 -1.02642E-01
+ +3.95898E+00 -1.03170E-01
+ +3.99795E+00 -1.05347E-01
+ +4.04668E+00 -1.08193E-01
+ +4.10514E+00 -1.11960E-01
+ +4.12463E+00 -1.13436E-01
+ +4.13438E+00 -1.14250E-01
+ +4.14412E+00 -1.15139E-01
+ +4.15387E+00 -1.16103E-01
+ +4.16361E+00 -1.17155E-01
+ +4.17336E+00 -1.18305E-01
+ +4.18310E+00 -1.19546E-01
+ +4.19285E+00 -1.20885E-01
+ +4.20259E+00 -1.22311E-01
+ +4.22208E+00 -1.25424E-01
+ +4.23182E+00 -1.27086E-01
+ +4.25131E+00 -1.30599E-01
+ +4.26106E+00 -1.32451E-01
+ +4.29029E+00 -1.38245E-01
+ +4.34876E+00 -1.50640E-01
+ +4.40723E+00 -1.63728E-01
+ +4.42672E+00 -1.68185E-01
+ +4.43646E+00 -1.70433E-01
+ +4.44620E+00 -1.72683E-01
+ +4.45595E+00 -1.74945E-01
+ +4.46569E+00 -1.77208E-01
+ +4.47544E+00 -1.79480E-01
+ +4.48518E+00 -1.81763E-01
+ +4.49493E+00 -1.84048E-01
+ +4.50467E+00 -1.86338E-01
+ +4.52416E+00 -1.90949E-01
+ +4.53391E+00 -1.93259E-01
+ +4.55340E+00 -1.97894E-01
+ +4.56314E+00 -2.00215E-01
+ +4.59237E+00 -2.07204E-01
+ +4.65084E+00 -2.21283E-01
+ +4.71905E+00 -2.37826E-01
+ +4.80675E+00 -2.59246E-01
+ +5.06011E+00 -3.21721E-01
+ +5.44990E+00 -4.18795E-01
+ +5.83968E+00 -5.16478E-01
+ +6.19049E+00 -6.04684E-01
+ +6.47308E+00 -6.75867E-01
+ +7.47308E+00 -6.75867E-01
+ ] )
.ENDS PULL_UP
*
.ENDS generic_3_3v_3_3V_O_fast_40ohm_TT
.END
